US07390923B2
3-(4-Acetylamino-3-fluorophenoxy)-N-(4-cyano-3-methylphenyl)-2-hydroxy-2-methylpropionamide was prepared as described in Example 1 starting from N-(2-fluoro-4-hydroxyphenyl)acetamide and 2-methyl-oxirane-2-carboxylic acid (4-cyano-3-methylphenyl)amide. 1H NMR (DMSO-d6): 1.41 (3H, s), 2.02 (3H, s), 2.44 (3H, s), 3.95 (1H, d, J=9.8 Hz), 4.26 (1H, d, J=9.8 Hz), 6.21 (1H, bs), 6.72 (1H, m), 6.86 (1H, m),7.56 (1H, m,) 7.69 (1H, d, J=9.0 Hz), 7.78 (1H, dd, J=9.0 Hz and 2.2 Hz), 7.93 (1H, d, J=2.2 Hz), 9.51 (1H, s), 9.99 (1H, bs).

reactant | N-(2-fluoro-4-hydroxyphenyl)acetamide | FC1=C(C=CC(=C1)O)NC(C)=O | C8H8FNO2
reactant | 2-methyl-oxirane-2-carboxylic acid (4-cyano-3-methylphenyl)amide | C(#N)C1=C(C=C(C=C1)NC(=O)C1(OC1)C)C | C12H12N2O2
product | 3-(4-Acetylamino-3-fluorophenoxy)-N-(4-cyano-3-methylphenyl)-2-hydroxy-2-methylpropionamide | C(C)(=O)NC1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)C#N)C)(C)O)C=C1)F | C20H20FN3O4
